US06310056B1
b) (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(6-methylimidazo[5,1-b]thiazolium-2-yl)-1-carbapen-2-em-3-carboxylate (inner salt)
The total volume of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(6-methylimidazo[5,1-b]thiazolium-2-yl)-1-carbapen-2-em-3-carboxylate iodide was dissolved in a mixture of 2 ml of THF and 2 ml of {fraction (1/15)} M phosphate buffer (pH 6.8), 77 mg of 10% Pd-C was added. The reactor was purged with hydrogen, and the reaction mixture was stirred at room temperature for 5 hours. The catalyst was collected by filtration with Celite and washed with water. The filtrate was washed with 20 ml of ethyl acetate, and purified by column chromatography on DIAION HP-20 to give 14.1 mg of the title compound.

reactant | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(6-methylimidazo[5,1-b]thiazolium-2-yl)-1-carbapen-2-em-3-carboxylate iodide | [I-].O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=C[N+]=3C(S2)=CN(C3)C)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | phosphate | pH 6.8 | P(=O)([O-])([O-])[O-]
catalyst | Pd-C | 77 mg | [Pd] | Pd
product | (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-(6-methylimidazo[5,1-b]thiazolium-2-yl)-1-carbapen-2-em-3-carboxylate | 14.1 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=C[N+]=3C(S2)=CN(C3)C)C(=O)[O-])C1=O | C16H17N3O4S
